US04920125
A 25 mL round bottomed flask, equipped with a magnetic stirrer and gas inlet, was charged with 0.15 g (1.0 eq) of 4-[4-(2,6-diamino-4-hydroxypyrimidin-5-yl)butyl]thien-2-ylcarboxylic acid, 0.20 g (1.5 eq) of phenyl N-phenylphosphoramidochloridite, 0.25 g (5.0 eq) of N-methylmorpholine, and 15 mL of anhydrous N-methylpyrrolidone. The mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour. To the resulting homogeneous solution was added 0.23 g (2.0 eq) of diethyl L-glutamate hydrochloride and stirring under nitrogen was continued for 24 hours. The solvent was removed by vacuum distillation and chloroform was added to the residue. The chloroform solution was washed with water. The organic extracts were combined, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification was carried out by flash chromatography eluting with 10% methanol/chloroform. Fractions homogeneous by TLC for the major component were combined and concentrated under reduced pressure to give 0.13 g (54.2%) of diethyl N-(4-[4-(2,6-diamino-4-hydroxypyrimidin-5-yl)butyl]thien-2-ylcarboxy)-L-glutamate as a pale yellow powder, m,p,: 94°-96° C.; IR (KBr, cm-1): 3368, 3363, 3361, 3358, 3352, 3349, 3346, 3343, 1735, 1560, 1552, 1525, 1499, 1447, 1428, 1371, 1206, 1180; UV (Ethanol): λmax =278 nm (epsilon=19,700), 248 nm (epsilon=13,300), 211 nm (epsilon=23,900), 1H NMR (CDCl3, 300 MHz) delta 7.94 (s, 1H), 7.85 (d,J=7.8 Hz, 1H), 7.08 (s, 1H), 5.11 (bs, 2H), 4.67-4.73 (m, 1H) 4.55 (bs, 2H), 4.23 (q, J=7.2 Hz, 2H), 4.15 (q, J=7.2 Hz, 2H), 2.66-2.71 (m, 2H), 2.56-2.61 (m, 2H), 2.23-2.44 (m, 4H), 1.59-1.70 (m, 2H), 1.44-1.51 (m, 2H), 1.25-1.32 (m, 6H); MASS: M+ =494 (FD).

reactant | 4-[4-(2,6-diamino-4-hydroxypyrimidin-5-yl)butyl]thien-2-ylcarboxylic acid | 0.15 g, 1.0 eq | NC1=NC(=C(C(=N1)O)CCCCC=1C=C(SC1)C(=O)O)N | C13H16N4O3S
reactant | phenyl N-phenylphosphoramidochloridite | 0.20 g, 1.5 eq | C1(=CC=CC=C1)NP(OC1=CC=CC=C1)Cl | C12H11ClNOP
reactant | N-methylmorpholine | 0.25 g, 5.0 eq | CN1CCOCC1 | C5H11NO
reactant | diethyl L-glutamate hydrochloride | 0.23 g, 2.0 eq | Cl.N[C@@H](CCC(=O)OCC)C(=O)OCC
solvent | N-methylpyrrolidone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | diethyl N-(4-[4-(2,6-diamino-4-hydroxypyrimidin-5-yl)butyl]thien-2-ylcarboxy)-L-glutamate | 0.13 g, 54.2% | NC1=NC(=C(C(=N1)O)CCCCC=1C=C(SC1)OC(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)N | C22H31N5O7S
